US05364871
Bromine (2.2 g) was added slowly to a solution of 4-acetyl-2-acetylaminomethylthiazole (2.2 g) in acetic acid (20 ml) and water (20 ml), and the mixture was heated at 70° C. for 4 hours. The solvent was removed under reduced pressure to give crude product of 2-acetylaminomethyl-4-bromoacetylthiazole. The above residue was dissolved in ethanol (50 ml). Diaminomethylenethiourea (1.3 g) was added to the solution and the mixture was refluxed for 4 hours. The solvent was removed under reduced pressure. The residue was dissolved in water and then the solution was alkalized with a saturated aqueous potassium carbonate solution. The resulting precipitate was collected by filtration. The filtrate was extracted by ethyl acetate and then the solvent was removed under reduced pressure. The residue and the precipitate were chromatographed on an alumina column eluting with a mixture of chloroform and methanol (10:1). Recrystallization from water afforded 4-(2-acetylaminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole (430 mg).

reactant | Bromine | 2.2 g | BrBr | Br2
reactant | 4-acetyl-2-acetylaminomethylthiazole | 2.2 g | C(C)(=O)C=1N=C(SC1)CNC(C)=O | C8H10N2O2S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | 2-acetylaminomethyl-4-bromoacetylthiazole | C(C)(=O)NCC=1SC=C(N1)C(CBr)=O | C8H9BrN2O2S
